US08124606B2
Compound 72: (S)-6-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinonitrile
(S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one (89.0 mg, 0.382 mmol) was suspended in propionitrile (1 mL) and (cyanomethyl)trimethylphosphonium iodide (111.0 mg, 0.458 mmol) was added followed by N-ethyl-N-isopropylpropan-2-amine (200 ul, 1.1 mmol). To the stirred mixture was then added 6-(piperazin-1-yl)nicotinonitrile (79 mg, 0.420 mmol). The reaction was heated to 90° C. with stirring for 16 h. The crude reaction was cooled to room temperature and concentrated to a residue, then taken up in 3 mL DMSO and purified via HPLC (55-90% acetonitrile in water, ammonium bicarbonate buffer). The fractions were combined and concentrated until a white solid precipitated. The precipitate was filtered off and dried in vacuum to afford the title compound (54.2 mg, 35.2%) as a white solid. 1H NMR (DMSO-d6) δ (ppm): 10.48 (br. s., 1H), 8.46 (d, J=2.3 Hz, 1H), 7.83 (dd, J=9.1, 2.5 Hz, 1H), 7.64 (d, J=2.0 Hz, 1H), 6.97 (d, J=1.8 Hz, 1H), 6.90 (d, J=9.1 Hz, 1H), 4.50 (d, J=12.9 Hz, 1H), 3.83 (dd, J=11.4, 2.8 Hz, 1H), 3.55-3.70 (m, 4H), 3.34 (s, 2H), 2.59 (td, J=12.6, 2.4 Hz, 1H), 2.40 (t, J=4.8 Hz, 4H), 2.03 (d, J=12.6 Hz, 1H), 1.84 (d, J=12.1 Hz, 1H), 1.63 (d, J=13.6 Hz, 1H), 1.29-1.56 (m, 3H). [M+H] calc'd for C22H25N7O, 404. found, 404.

reactant | (S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one | 0.382 mmol, 89.0 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O | C12H15N3O2
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.458 mmol, 111.0 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.1 mmol, 200 ul | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 6-(piperazin-1-yl)nicotinonitrile | 0.420 mmol, 79 mg | N1(CCNCC1)C1=NC=C(C#N)C=C1 | C10H12N4
solvent | propionitrile | 1 mL | C(CC)#N | C3H5N
product | (S)-6-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinonitrile | 54.2 mg, 35.2% | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)CN3CCN(CC3)C3=NC=C(C#N)C=C3)CCCC2 | C22H25N7O
